US08106064B2
3,5-dichloro-2,4,6-trifluoropyridine (25 g, 15.4 mL, 123.7 mmol) and dibenzyl malonate (35.8 g, 31.5 mL, 126 mmol, Aldrich) were dissolved in anhydrous DMF (240 mL) under nitrogen atmosphere. The mixture was then cooled in an ice bath. To a stirred mixture, was added 60% sodium hydride (10 g, 250 mmol) portionwise (2 g) for 2 hr. The mixture was then stirred in a water bath for ca. 17 hr. Glacial acetic acid was added and the mixture was partitioned between ether and water. Ether layer was taken, washed with water twice, dried with anhydrous magnesium sulfate, filtered, and dried in vacuo to give 62 g of dibenzyl 2-(3,5-dichloro-2,6-difluoropyridin-4-yl)malonate as a yellow oil. dibenzyl 2-(3,5-dichloro-2,6-difluoropyridin-4-yl)malonate (62 g) was then dissolved in dimethyl sulfoxide (DMSO) (120 mL) and stirred with water (10 mL) in an oil bath (130-140° C.) for 3 hr. After cooling to room temperature, water was added to the mixture and the product was extracted with ether (Sometimes addition of EA is necessary to dissolve product completely). The ether layer was washed with water twice, dried with anhydrous magnesium sulfate, filtered, and evaporated in vacuo to give a light yellow solid. The crude product was recrystallized from MC/Hexane three times to afford 30.9 g (75% for two steps) of benzyl 2-(3,5-dichloro-2,6-difluoropyridin-4-yl)acetate as a white solid. m.p. 98-101° C. 1H NMR (200 MHz, CDCl3) δ 4.11 (2H, s), 5.19 (2H, s), 7.30-7.38 (5H, m).

reactant | 3,5-dichloro-2,4,6-trifluoropyridine | 123.7 mmol, 15.4 mL, 25 g | ClC=1C(=NC(=C(C1F)Cl)F)F | C5Cl2F3N
reactant | dibenzyl malonate | 126 mmol, 31.5 mL, 35.8 g | C(CC(=O)OCC1=CC=CC=C1)(=O)OCC1=CC=CC=C1 | C17H16O4
reactant | sodium hydride | 250 mmol, 10 g | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 240 mL | CN(C)C=O | C3H7NO
product | dibenzyl 2-(3,5-dichloro-2,6-difluoropyridin-4-yl)malonate | 62 g | ClC=1C(=NC(=C(C1C(C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1)Cl)F)F | C22H15Cl2F2NO4
